US04313953
Through a stirred and refluxing mixture of 5.5 parts of 4-[1-(phenylmethyl)-1H-imidazol-4-yl]phenol and 120 parts of acetonitrile, gaseous bromomoethane is bubbled till the solution is clear. Stirring at reflux is continued for 2 hours while gaseous bromomethane is still introduced. The solvent is evaporated and the solid residue is triturated in 2-propanone. The product is filtered off and dried, yielding 7.5 parts of 4-(4-hydroxyphenyl)-3-methyl-1-(phenylmethyl)-1H-imidazolium bromide.

reactant | 4-[1-(phenylmethyl)-1H-imidazol-4-yl]phenol | C1(=CC=CC=C1)CN1C=NC(=C1)C1=CC=C(C=C1)O | C16H14N2O
reactant | bromomoethane | [BrH+]CC
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(4-hydroxyphenyl)-3-methyl-1-(phenylmethyl)-1H-imidazolium bromide | [Br-].OC1=CC=C(C=C1)C=1N(C[NH+](C1)CC1=CC=CC=C1)C | InChI=1S/C17H18N2O.BrH/c1-18-13-19(11-14-5-3-2-4-6-14)12-17(18)15-7-9-16(20)10-8-15;/h2-10,12,20H,11,13H2,1H3;1H
